US07579341B2
1′-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1,4′-bipiperidinyl-4-carboxylic acid
A solution of 7.2 mg (0.3 mmol) LiOH in 1 mL water was added to a solution of 140 mg (0.18 mmol) ethyl 1′-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1,4′-bipiperidinyl-4-carboxylate in 1 mL THF and the reaction mixture was stirred for 3 h at RT. 1 mL HCl (1 M) was added and the crude product was purified by HPLC. The fractions containing the product were combined and freeze-dried.

reactant | LiOH | 0.3 mmol, 7.2 mg | [Li+].[OH-]
reactant | ethyl 1′-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1,4′-bipiperidinyl-4-carboxylate | 0.18 mmol, 140 mg | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1CCC(CC1)N1CCC(CC1)C(=O)OCC)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C38H48ClF3N6O6
reactant | HCl | 1 M, 1 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1′-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1,4′-bipiperidinyl-4-carboxylic acid | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1CCC(CC1)N1CCC(CC1)C(=O)O)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C36H44ClF3N6O6
